US07223766B2
N-(2-Butyl-4-cyano-5-methyl-2H-pyrazol-3-yl)-2-fluoro-benzamide
5-Amino-1-butyl-3-methyl-1H-pyrazole-4-carbonitrile (10.0 g, 56 mmole) was dissolved in a mixture of dichloromethane/pyridine (45 ml/15 ml) and cooled to 0° C. 2-fluorobenzoyl chloride (8.87 g, 56 mmole) was added dropwise and reaction mixture stirred for 1 hour at 0° C., the at room temperature overnight. Removed solvent under vacuum. Residue was taken up in ethyl acetate, washed with dilute hydrochloric acid, 0.1M sodium hydroxide, water and dried over sodium sulfate (anh). Removed solvent and triturated solid in 30% ethyl acetate/hexanes. Filtered product to obtain 4.16 g product (yield: 24%).

reactant | 5-Amino-1-butyl-3-methyl-1H-pyrazole-4-carbonitrile | 56 mmole, 10.0 g | NC1=C(C(=NN1CCCC)C)C#N | C9H14N4
reactant | 2-fluorobenzoyl chloride | 56 mmole, 8.87 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | dichloromethane pyridine | 45 ml | ClCCl.N1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Butyl-4-cyano-5-methyl-2H-pyrazol-3-yl)-2-fluoro-benzamide | 4.16 g, yield: 24% | C(CCC)N1N=C(C(=C1NC(C1=C(C=CC=C1)F)=O)C#N)C | C16H17FN4O
